US07943622B2
Step 1. Synthesis of tert-butyl 4-(2-(phenylamino)oxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate
A solution of tert-butyl 4-(2-chlorooxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (117 mg, 0.277 mmol), aniline (51 mg, 0.554 mmol) and potassium carbonate (76 mg, 0.554 mmol) in THF (2 mL) was heated to 70° C. overnight. Upon cooling to rt, the reaction mixture was filtered and concentrated under reduced pressure. The material was purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient), yielding 64.8 mg (40%) of the title compound as the TFA salt. LC-MS: RT=6.72 min, [M+H]+=480.0.

reactant | tert-butyl 4-(2-chlorooxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.277 mmol, 117 mg | ClC=1OC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C19H23ClN4O5
reactant | aniline | 0.554 mmol, 51 mg | NC1=CC=CC=C1 | C6H7N
reactant | potassium carbonate | 0.554 mmol, 76 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(2-(phenylamino)oxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 64.8 mg, 40% | C1(=CC=CC=C1)NC=1OC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C25H29N5O5
